US08440652B2
The final step of general method D was applied to N-ethyl-N-methyl-6-(trimethylstannyl)pyridine-3-sulfonamide (233 mg, 0.6 mmol) and 2-(2-amino-5-bromopyridin-3-yl)-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one (194 mg, 0.6 mmol) to give 6′-amino-N-ethyl-N-methyl-5′-(7-oxo-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-2-yl)-[2,3′-bipyridine]-5-sulfonamide as a yellow solid (140 mg, 0.31 mmol, 53% yield) after purification by reverse phase preparatory HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.91 (d, J=2.0 Hz, 1H), 8.85 (d, J=2.3 Hz, 1H), 8.26 (d, J=2.3 Hz, 1H), 8.10-8.19 (m, 2H), 7.73 (br. s, 1H), 7.33 (s, 1H), 6.62 (s, 2H), 3.44-3.50 (m, 2H), 3.09 (s, 2H), 2.86 (t, J=1.0 Hz, 1H), 2.72 (s, 3H), 1.01-1.09 (m, 3H); MS (EI) m/z=444.5 [M+1]+.

reactant | N-ethyl-N-methyl-6-(trimethylstannyl)pyridine-3-sulfonamide | 0.6 mmol, 233 mg | C(C)N(S(=O)(=O)C=1C=NC(=CC1)[Sn](C)(C)C)C
reactant | 2-(2-amino-5-bromopyridin-3-yl)-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one | 0.6 mmol, 194 mg | NC1=NC=C(C=C1C1=CC2=C(C(NCC2)=O)S1)Br | C12H10BrN3OS
product | 6′-amino-N-ethyl-N-methyl-5′-(7-oxo-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-2-yl)-[2,3′-bipyridine]-5-sulfonamide | 0.31 mmol, 140 mg, 53% yield | NC1=C(C=C(C=N1)C1=NC=C(C=C1)S(=O)(=O)N(C)CC)C1=CC2=C(C(NCC2)=O)S1 | C20H21N5O3S2
